US08455488B2
Synthesis of 1-benzyl-3-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)urea (Compound II-100)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-benzylureidooxy)acetic acid (Compound VI-1) 66 mg (0.30 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide (Compound IV-3) 100 mg (0.20 mmol) to obtain the title compound.

reactant | 2-(3-benzylureidooxy)acetic acid | 0.30 mmol, 66 mg | C(C1=CC=CC=C1)NC(NOCC(=O)O)=O | C10H12N2O4
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide | 0.20 mmol, 100 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C30H41N3O4
product | 1-benzyl-3-(2-((S)-3-(4-tert-butoxyphenyl)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-oxoethoxy)urea | C(C1=CC=CC=C1)NC(=O)NOCC(=O)N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC1=CC=C(C=C1)OC(C)(C)C | C40H51N5O7
